US06887881B1
(iii) tert-Butyl 7-benzyl-9-hydroxy-9-methyl-3,7-diazabicyclo[3.3.1]-nonane-3-carboxylate
A solution of 3,7-dibenzyl-9-hydroxy-9-methyl-3,7-diazabicyclo[3.3.1]-nonane (from step (ii) above, 1.0 g, 4.0 mmol) and di-tert-butyl dicarbonate (0.98 g, 4.25 mmol) in EtOH (50 mL) was hydrogenated over Pd/C for 20 minutes, filtered through a pad of Celite® and concentrated. Purification by column chromatography gave the sub-title compound in a 40% yield.

reactant | 3,7-dibenzyl-9-hydroxy-9-methyl-3,7-diazabicyclo[3.3.1]-nonane | C(C1=CC=CC=C1)N1CC2CN(CC(C1)C2(C)O)CC2=CC=CC=C2 | C22H28N2O
reactant | di-tert-butyl dicarbonate | 4.25 mmol, 0.98 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | EtOH | 50 mL | CCO | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | tert-Butyl 7-benzyl-9-hydroxy-9-methyl-3,7-diazabicyclo[3.3.1]-nonane-3-carboxylate | 40% yield | C(C1=CC=CC=C1)N1CC2CN(CC(C1)C2(C)O)C(=O)OC(C)(C)C | C20H30N2O3
